US04251629
Determination of Uric Acid
In 100 ml of 0.1 M phosphate buffer solution (pH 8.0), 10 units of uricase, 100 units of peroxidase, 30 mg of 4-aminoantipyrine and 100 mg of N-ethyl-N-hydroxyethyl-3-methylaniline are dissolved to produce a color producing reagent solution.

reactant | 4-aminoantipyrine | 30 mg | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | N-ethyl-N-hydroxyethyl-3-methylaniline | 100 mg | C(C)N(C1=CC(=CC=C1)C)CCO | C11H17NO
reactant | uricase | C1=CN(C(=O)NC1=O)C2C(C(C(O2)COP(=O)(O)OC3C(OC(C3O)N4C=CC(=O)NC4=O)CO)O)O.N
solvent | phosphate | 0.1 M, 100 ml, pH 8.0 | P(=O)([O-])([O-])[O-]
product | Uric Acid | N1C(=O)NC=2NC(=O)NC2C1=O | C5H4N4O3
